US07777047B2
N-({5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}carbonyl)-S-trityl-D-cysteine methyl ester
A mixture of 5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylic acid (0.45 g), S-trityl-D-cysteine methyl ester hydrochloride (0.46 g), 1H-1,2,3-benzotriazol-1-ol (0.26 g), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.32 g), triethylamine (0.19 mL) and N,N-dimethylformamide (5 mL) was stirred at room temperature for 64 hr. The reaction mixture was concentrated, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (4:1-1:4, volume ratio) to give the title compound (0.60 g, yield 72%) as a colorless amorphous solid.

reactant | 5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.45 g | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C(=O)O | C18H19N3O6S
reactant | S-trityl-D-cysteine methyl ester hydrochloride | 0.46 g | Cl.COC([C@H](N)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.26 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.32 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.19 mL | C(C)N(CC)CC | C6H15N
product | N-({5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-2-yl}carbonyl)-S-trityl-D-cysteine methyl ester | 0.60 g, yield 72% | COC([C@H](NC(=O)C=1NC2=C(C=C(C=C2C1)OCCOC)N(S(=O)(=O)C1=NC=CC=C1)C)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C41H40N4O7S2
